US04737513
18 ml of a molar solution of dimethylsulfoxide in methylene chloride were introduced dropwise at -60° C. into 9.5 ml of a molar solution of oxalyl chloride in methylene chloride and the mixture was stirred at -60° C. for 5 minutes. Then, at -60° C., a solution of 724 g of 4-hydroxyl-methyl-1-(2-propynyl)-1H-pyrrole-3-carbonitrile was added dropwise and the mixture was stirred at -60° C. for 5 hours, after which, still at -60° C., 25 ml of a molar solution of triethylamine in methylene chloride were added dropwise. The mixture was stirred at -60° C. for 30 minutes and the reaction mixture was allowed to return to ambient temperature. Water was added and the mixture was stirred and decanted. The organic phase was washed with a saturated aqueous solution of sodium chloride and concentrated to dryness by distilling under reduced pressure. The residue was chromatographed over silica and was eluted with a mixture of hexane and ethyl acetate (1-1) to obtain 702 mg of 4-formyl-1-(2-propynyl)-1H-pyrrol-3-carbonitrile melting at 114° C.

reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-hydroxyl-methyl-1-(2-propynyl)-1H-pyrrole-3-carbonitrile | 724 g | OC=1C(=C(N(C1)CC#C)C)C#N | C9H8N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 4-formyl-1-(2-propynyl)-1H-pyrrol-3-carbonitrile | 702 mg | C(=O)C=1C(=CN(C1)CC#C)C#N | C9H6N2O
